US06156893
Preparation of (±)-2-isobutyryl-2-azabicyclo[2.2.1]hept-5-en-3-one
45.1 g of (±)-2-azabicyclo[2.2.1]hept-5-en-3-one were dissolved in acetonitrile (310 ml) and pyridine (39 ml) under nitrogen. At 10° C., 54.1 g of isobutyryl chloride were added dropwise over the course of 1 h. The reaction was then stirred at room temperature for 5 h. 140 ml of water were added to the mixture, and the acetonitrile was evaporated off in vacuo. The aqueous phase was extracted with 4×120 ml of ethyl acetate. The combined organic phases were washed with 1N HCl (50 ml), saturated NaHCO3 (50 ml) and NaCl (50 ml) solutions, dried with sodium sulphate and completely evaporated. The residue was boiled under reflux in n-hexane (240 ml) with active charcoal. After filtration of the active charcoal, the filtrate was cooled to 0° C. and the title compound was filtered. 54.5 g of product were obtained. The yield was 76%.

reactant | (±)-2-azabicyclo[2.2.1]hept-5-en-3-one | 45.1 g | C12NC(C(C=C1)C2)=O | C6H7NO
reactant | pyridine | 39 ml | N1=CC=CC=C1 | C5H5N
reactant | isobutyryl chloride | 54.1 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | 140 ml | O | H2O
solvent | acetonitrile | 310 ml | C(C)#N | C2H3N
product | (±)-2-isobutyryl-2-azabicyclo[2.2.1]hept-5-en-3-one | 54.5 g, yield was 76% | C(C(C)C)(=O)N1C2C=CC(C1=O)C2 | C10H13NO2
